US07678801B2
150a) 4-chloro-8-(2,6-difluorophenyl)-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one
To the compound 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (1.70 g, 5.0 mmol) in dichloromethane (100 mL) was added mCPBA (1.16 g, 7.5 mmol). The mixture was stirred at rt for 10 min. Chromatography with hexane/ethyl acetate afforded the title compound (1.59 g, 89%). LC-MS m/z 356 (M+H)+.

reactant | 4-chloro-8-(2,6-difluorophenyl)-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 5.0 mmol, 1.70 g | ClC=1C2=C(N=C(N1)SC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3OS
reactant | mCPBA | 7.5 mmol, 1.16 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-chloro-8-(2,6-difluorophenyl)-2-(methylsulfinyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 1.59 g, 89% | ClC=1C2=C(N=C(N1)S(=O)C)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C14H8ClF2N3O2S
